US08735426B2
Step 3: Synthesis of ethyl 2-(3-fluoro-4-nitrophenyl)-2-phenylacetate
9.8 g of potassium tert-butylate were dissolved in 90 mL of DMF and cooled to −45° C. To this, a mixture of ethyl 2-chloro-2-phenylacetate (43.8 mmol, 8.7 g) and 1-fluoro-2-nitrobenzene (43.8 mmol, 4.6 mL) was gently added dropwise and stirring was continued for a further 20 minutes. The reaction mixture was set to pH 4 with aq. 16% strength. HCl, diluted with 25 mL of water, and extracted with EA (3×50 mL). Following combination of the organic phases, they were washed with water and sat. aq. NaCl solution, dried over MgSO4 and concentrated in vacuo. The resulting residue was purified by column chromatography (silica gel: mesh 100-200, eluent: 10% EA in cyclohexane) and yielded 5.9 g (44.9%) of the desired product.

reactant | potassium tert-butylate | 9.8 g | CC(C)(C)[O-].[K+]
reactant | ethyl 2-chloro-2-phenylacetate | 43.8 mmol, 8.7 g | ClC(C(=O)OCC)C1=CC=CC=C1 | C10H11ClO2
reactant | 1-fluoro-2-nitrobenzene | 43.8 mmol, 4.6 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | Cl | ClH
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | ethyl 2-(3-fluoro-4-nitrophenyl)-2-phenylacetate | 5.9 g, 44.9% | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C1=CC=CC=C1 | C16H14FNO4
